US05109003
7-Allyl-3-ethyl-1-(5-hydroxy-5-methylhexyl)-xanthine (Compound 19)
This compound was prepared as described in Example 1 starting with 7-Allyl-3-ethyl-xanthine and 1-chloro-5-hydroxy-5-methylhexane and recrystallizing the final product from diisopropyl ether with addition of some ethyl acetate.

reactant | 7-Allyl-3-ethyl-xanthine | C(C=C)N1C=NC=2N(C(NC(C12)=O)=O)CC | C10H12N4O2
reactant | 1-chloro-5-hydroxy-5-methylhexane | ClCCCCC(C)(C)O | C7H15ClO
product | 7-Allyl-3-ethyl-1-(5-hydroxy-5-methylhexyl)-xanthine | C(C=C)N1C=NC=2N(C(N(C(C12)=O)CCCCC(C)(C)O)=O)CC | C17H26N4O3
